data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-[Si](C)(C)C_1-F_2-Br_3-C(C)(C)C_4-F_5-C(F)(F)F_6-C(F)(F)F_7-OC_8-C(C)(C)C_9-C(F)(F)F","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(F)c(Br)c(C(C)(C)C)c(F)c(C(F)(F)F)c1O","c1(C(F)(F)F)c(OC)c(C(C)(C)C)c(C(F)(F)F)c([Si](C)(C)C)c1I"],"products_smiles": ["c1(F)c(Br)c(C(C)(C)C)c(F)c(C(F)(F)F)c1Oc2c(C(F)(F)F)c(OC)c(C(C)(C)C)c(C(F)(F)F)c2([Si](C)(C)C)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(F)c(Br)c(C(C)(C)C)c(F)c(C(F)(F)F)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C(F)(F)F)c(OC)c(C(C)(C)C)c(C(F)(F)F)c([Si](C)(C)C)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(C(F)(F)F)c(OC)c(C(C)(C)C)c(C(F)(F)F)c([Si](C)(C)C)c2[Cu](I)Oc1c(F)c(Br)c(C(C)(C)C)c(F)c1(C(F)(F)F)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(F)c(Br)c(C(C)(C)C)c(F)c(C(F)(F)F)c1Oc2c(C(F)(F)F)c(OC)c(C(C)(C)C)c(C(F)(F)F)c2([Si](C)(C)C)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
{"reaction_id": "NR-336_1-C(C)(C)C_2-C(C)(C)C_3-C(C)(C)C","level": "medium","name": "Robinson-Gabriel Synthesis","reactants_smiles": ["C(=O)(NC([H])(C(C)(C)C)C(=O)C(C)(C)C)C(C)(C)C"],"products_smiles": ["C(C)(C)Cc1nc(C(C)(C)C)c(C(C)(C)C)o1"],"conditions": "Acid (e.g., H-OTs, H2SO4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC([H])(C(C)(C)C)C(=[OH+])C(C)(C)C)C(C)(C)C","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the adjacent carbon, making it more susceptible to nucleophilic attack by the nearby amide nitrogen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)CC1=[NH+]C(C(C)(C)C)C(O)(C(C)(C)C)O1","step_weight": 0,"rationale": "The amide nitrogen attacks the activated carbonyl carbon intramolecularly, favored by proximity and ring closure, forming a five-membered oxazolinium intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC1=NC(C(C)(C)C)C([OH2+])(C(C)(C)C)O1","step_weight": 0,"rationale": "Proton transfer to the hydroxyl group converts it into a better leaving group (water), facilitated by the acidic medium."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C)Cc1nc(C(C)(C)C)c(C(C)(C)C)o1","step_weight": 0,"rationale": "Loss of water generates a conjugated aromatic oxazole ring, driven by the stability of the aromatic system and the good leaving ability of water under acidic conditions."}],"description": "Under acidic conditions, the amide carbonyl is activated toward intramolecular cyclization. Protonation increases electrophilicity, enabling nucleophilic attack by the amide nitrogen to form an oxazole ring. Subsequent proton transfers and water elimination yield the aromatic heterocycle."}
